US07148250B2
3-Carboxymethyl-1-(3-carboxy-phenyl)-1H-indole-2-carboxylic acid
To a solution of 3-ethoxycarbonylmethyl-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid ethyl ester (1.31 g, 3.2 mmol) in THF-methanol (2:1, 25 mL) was added a solution of NaOH (0.64 g, 16.0 mmol) in H2O (5 mL). The mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue was diluted with H2O (50 mL) and washed with diethyl ether (50 mL). The aqueous layer was acidified with concentrated HCl to pH=1. The white precipitated was filtered off and dried in vacuo to afford 1.08 g of white solid (quantitative yield): 1H NMR (DMSO-d6) δ 4.13 (s, 2H), 7.05 (d, 1H), 7.21 (t, 1H), 7.31 (t, 1H), 7.62–7.71 (m, 2H), 7.76–7.82 (m, 2H), 8.01–8.05 (m, 1H); 13C NMR (DMSO-d6) 31.0, 111.1, 119.0, 121.2, 121.4, 126.2, 127.4, 127.8, 128.3, 128.7, 129.9, 132.2, 138.9, 139.3, 162.6, 167.0, 172.5. Anal: Calcd for C18H13NO6: C, 63.72; H, 3.86; N, 4.13. Found: C, 63.32; H, 4.08; N, 3.97.

reactant | 3-ethoxycarbonylmethyl-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid ethyl ester | 3.2 mmol, 1.31 g | C(C)OC(=O)C=1N(C2=CC=CC=C2C1CC(=O)OCC)C1=CC(=CC=C1)C(=O)OC | C23H23NO6
reactant | NaOH | 16.0 mmol, 0.64 g | [OH-].[Na+]
solvent | THF methanol | 25 mL | C1CCOC1.CO
solvent | H2O | 5 mL | O | H2O
product | 3-Carboxymethyl-1-(3-carboxy-phenyl)-1H-indole-2-carboxylic acid | 1.08 g, quantitative yield | C(=O)(O)CC1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)C(=O)O)C(=O)O | C18H13NO6
